US04772594
To a solution of N-(cholest-5-en-3β-oxycarbonyl)glycine (2.92 g) in a mixture of dioxane (40 ml) and chloroform (6 ml) were added successively N-hydroxysuccinimide (0.69 g) and dicyclohexylcarbodiimide (1.236 g) at 0° C. and the reaction mixture was stood for 16 hours in a refrigerator. The resulting precipitate was collected by filtration and the filtrate was concentrated in vacuo to give succinimidyl N-(cholest5-en-3β-oxycarbonyl)glycinate (3.23 g).

reactant | N-(cholest-5-en-3β-oxycarbonyl)glycine | 2.92 g | CC(C)CCC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC=C4C[C@H](CC[C@]4(C)[C@H]3CC[C@]12C)OC(=O)NCC(=O)O | C30H49NO4
reactant | N-hydroxysuccinimide | 0.69 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | dicyclohexylcarbodiimide | 1.236 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
solvent | chloroform | 6 ml | C(Cl)(Cl)Cl | CHCl3
product | succinimidyl N-(cholest5-en-3β-oxycarbonyl)glycinate | 3.23 g | CC(C)CCC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC=C4C[C@H](CC[C@]4(C)[C@H]3CC[C@]12C)OC(=O)NCC(=O)ON1C(CCC1=O)=O | C34H52N2O6
